US06184225B2
A mixture of 6-methoxy,7-(2-(4-methylpiperazin-1-yl)ethoxy)-4-phenoxyquinazoline (960 mg, 2.4 mmol) and 2M hydrochloric acid (20 ml) was heated at 95° C. for 2 hours and allowed to cool. The solution was basified with solid sodium hydrogen carbonate, the water removed by evaporation and the residue azeotroped with toluene. The residue was washed exhaustively with methylene chloride, the washings were combined, -insolubles removed by filtration and the solvent removed by evaporation to give 6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one (500 mg, 66%).

reactant | 6-methoxy,7-(2-(4-methylpiperazin-1-yl)ethoxy)-4-phenoxyquinazoline | 2.4 mmol, 960 mg | COC=1C=C2C(=NC=NC2=CC1OCCN1CCN(CC1)C)OC1=CC=CC=C1 | C22H26N4O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 2M, 20 ml | Cl | ClH
product | 6-methoxy-7-(2-(4-methylpiperazin-1-yl)ethoxy)-3,4-dihydroquinazolin-4-one | 500 mg, 66% | COC=1C=C2C(NC=NC2=CC1OCCN1CCN(CC1)C)=O | C16H22N4O3
